US07687491B2
(18a) 4-(2,3-Difluorophenoxy)benzoic acid
The title compound (2.2 g) was synthesized in a yield of 94% as a white crystalline solid by conducting the similar reaction to that mentioned in Example 10 (10e) using 4-fluorobenzaldehyde (1.3 g, 10 mmol), 2,3-difluorophenol (2.0 g, 15 mmol), potassium carbonate (2.8 g, 20 mmol), 2-methyl-2-butene (4.9 ml, 46 mmol), potassium dihydrogenphosphate (3.1 g, 23 mmol) and sodium hypochlorite (2.5 g, 27 mmol).

reactant | 4-fluorobenzaldehyde | 10 mmol, 1.3 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | 2,3-difluorophenol | 15 mmol, 2.0 g | FC1=C(C=CC=C1F)O | C6H4F2O
reactant | potassium carbonate | 20 mmol, 2.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-methyl-2-butene | 46 mmol, 4.9 ml | CC(C)=CC | C5H10
reactant | potassium dihydrogenphosphate | 23 mmol, 3.1 g | P(=O)(O)(O)[O-].[K+]
reactant | sodium hypochlorite | 27 mmol, 2.5 g | Cl[O-].[Na+]
product | 4-(2,3-Difluorophenoxy)benzoic acid | 2.2 g, yield of 94% | FC1=C(OC2=CC=C(C(=O)O)C=C2)C=CC=C1F | C13H8F2O3
